US03952104
A mixture of 3.32 parts of 6,8-di-t-butyl-2,3-dihydro-4-oxo-4H-1-benzopyran-2-carboxylic acid, ethyl ester and 1.84 parts of N-bromosuccinimide was refluxed in 150 parts of carbon tetrachloride for six hours. The solution was cooled and then washed with water. The carbon tetrachloride extract was dried and the solvent was removed by evaporation. The resulting brown residue was crystallised from light petroleum (b.p. 40°-60°C) to give 1.69 parts of 6,8-di-t-butyl-4-oxo-4H-1-benzopyran-2-carboxylic acid, ethyl ester, m.p. 130°-131.5°C. The ester was hydrolysed to the sodium salt using the process of Example 5.

reactant | 6,8-di-t-butyl-2,3-dihydro-4-oxo-4H-1-benzopyran-2-carboxylic acid, ethyl ester | C(C)(C)(C)C=1C=C(C2=C(C(CC(O2)C(=O)OCC)=O)C1)C(C)(C)C | C20H28O4
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6,8-di-t-butyl-4-oxo-4H-1-benzopyran-2-carboxylic acid, ethyl ester | C(C)(C)(C)C=1C=C(C2=C(C(C=C(O2)C(=O)OCC)=O)C1)C(C)(C)C | C20H26O4
